.SUBCKT MAX4282 1 2 99 50 97
****************INPUT STAGE**********************
IOS 2 1 10p
I1 99 4 1E-3
*1.4
RIN1 2 104 .5E9
RIN2 104 1 .5E9
R1 5 50  52
R2 6 50  52
*EOS 1 9 POLY(1) 98 30  .7M 1
*               ^       OFFSET VOLTAGE, NODE 30 FROM COM. MODE STAGE.
vos 1 9 0v
Q1 5 2 109 QX
Q2 6 9 110 QX
RDEG1 110 4 .01
RDEG2 109 4 .01
*10
* Second Pole 
C4 5 6 .3nf
***************SECOND STAGE******************
IS 99 50 -1.1ma
*  SETS IS ^
****DELAY STAGE****
ED 16 98 12 98 1
RD1 16 17 17
RD2 17 18 17
RD3 18 19 17
RD4 19 20 17
CD1 17 98 17PF
CD2 18 98 17PF
CD3 19 98 17PF
CD4 20 98 17PF
****OUTPUT VOLTAGE LIMITING****
V2 99 11 .78
D1 12 11 DX
D2 10 12 DX
V3 10 50 .78
EH 99 98 99 50 0.5
****GAIN, 1ST POLE*************
G3 98 12 5 6 17.9E-3
R4 12 98 55.7E6
*C3 98 12 1.43e-9
C3 98 12 1.33E-9
*******************OUTPUT STAGE****************
F6 99 50 VA7 1
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
****************
G12 98 32 20 98 .01E-3
*         ^ NODE WHERE OUTPUT STAGE TAKES CONTROL VOLT.
R15 98 32 100E3
D3 32 36 DX
D4 37 32 DX
V5 35 37 2v
V4 36 35 -.2V
* .3 before
R16 34 35 40
*R16 OPEN-LOOP OUTPUT IMP.
E1 99 33 99 32 1
VA8 33 34 0V
L 35 96 0.0002U
RL2 96 97 2
* RL2 IMPROVES CONVERGENCE
RL 35 97 .1MEG
*
***** MODELS USED ******
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1250000)
.ENDS MAX4282
