.SUBCKT  MAX4310    1   2  99  50  40
*

*** INPUT STAGE
ISUPP 99 0 5.7MA
ISUPN 50 0 -5.7MA
I1 99  5 85U
I2  4 50 85U
Q1  50  3 5 QPN
Q2  99  3 4 QNN 
R1   5 6 633
C1   6 99 .36P
R2  4  7 633
C2   7 50 .36P
R3 99  8 633
V1  99 10 .3
RE1 10 30 130
D1  30  8 DX
R4 50  9 633
V2  11 50 .3
RE2 11 31 150
D2   9 31 DX
Q3   8  6 2 QNI
Q4   9  7 2 QPI
R6  1 99 20meg
R7  1 50 20meg
IB1 1 99 7UA
IB2 99  2 7UA
VOS 3 1 0V
CIN1 1  0 .5P
CIN2 2  0 .5P
*
**************SECOND STAGE**************
*
********************Isup  99 50 4.47M
R8  99 49 1meg
R9  49 50 1meg
V3  99 16 0
*.7
*pos swig
D3  15 16 DX
D4  17 15 DX
V4  17 50 0
*.6
*neg swing
EH  99 98 99 49 1
G1  98 15 POLY(2) 99 8 50 9 0 1.58E-3 1.58E-3
R5  98 15 2.372MEG
*** ***********************  1st pole here with r5, and c3
C3  98 15 .85P
*.64
***************POLE STAGE*************** 
*
*Fp=250MHz
G2  98 20 15 49 1E-3
R14 98 20 1K
C4  98 20 .7P
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 35 VA8 1
D7  36 35 DX
VA7 99 36 0
D8  35 99 DX
E1  99 37 99 20 1
VA8 37 38 0
R35 38 40 8
* was 60 OUTPUT IMPEDANCE
V5  33 40 3
*-.75
*7V
D5  23 33 DX
V6  40 34 3
*-.75v
D6  34 23 DX
CF1 40  2 1.19P
*** was 1.8pf
*
***************MODELS USED**************
*
.MODEL QNI NPN(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QPI PNP(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QNN NPN(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL QPN PNP(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL DX  D(IS=1E-15)
.MODEL DY  D(IS=1E-17)
.MODEL DN  D(KF=1.667E-9 AF=1 XTI=0 EG=.3)
.MODEL DP D(N=0.001)
*
.ENDS MAX4310
