.SUBCKT MAX435 9 29 14 34 99 50 16 36 51 
***************************************
F10 99 16 POLY(1) VSET .003 6.383 -188.9
*POLY SOURCE FOR SETTING QUIESCENT CURRENTS VIA RSET.
F11 99 14 POLY(1) VSET  7.5E-4  1.596 -47.23
Q1 99 9 8 Q
Q2 12 8 14 QPNP
F1 8 50 VSENSE1 0.5
F2 16 50 VSENSE1 4
VSENSE1 12 50 0V
CBW1 16 50 23P
******OUTPUT CLAMPING
D1 40 99 DX
D2 50 41 DX
V1 40 16 2.26V
V2 16 41 2.26V
********************** 2nd Half of Circuit
F30 99 36 POLY(1) VSET 0.003 6.383 -188.9    
F31 99 34 POLY(1) VSET  7.5E-4  1.596 -47.23
Q21 99 29 28 Q
Q22 32 28 34 QPNP
F21 28 50 VSENSE21 0.5
F22 36 50 VSENSE21 4
VSENSE21 32 50 0V
CBW2 36 50 23P
******OUTPUT CLAMPING
D21 60 99 DX
D22 50 61 DX
V21 60 36 2.26V
V22 36 61 2.26V
***********
VSET 0 51 -3.7V
.MODEL QPNP PNP (Bf=10E5)
.MODEL QNPN NPN (Bf=10E5)
.MODEL Q   NPN (Bf=15E5)
.MODEL DX D(IS=1E-15)
.ENDS MAX435
