.SUBCKT MAX4473 304 306 1 2 199 250 97
**************** PC input with V/I converter ****
R401 304 302 100K
c402 302 0 1pf
ECVS 305 0 302,0 .25
VSENSEPC 305 306 0V
FCCCS 2 0 VSENSEPC 1
****************INPUT STAGE**********************
I1 99 4 1E-3
vbiase1 199 99 -100MV
VBIASE 250 50 100MV
*RIN1 2 104 10k
*RIN2 104 1 10k
R1 5 50  52
R2 6 50  52
*               ^       OFFSET VOLTAGE, NODE 30 FROM COM. MODE STAGE.
Q1 5 2 401 QX
Q2 6 1 402 QX
r110 401 4 52
r120 402 4 52
* Second Pole 
C4 5 6 .75nf
***************SECOND STAGE******************
IS 99 50 .1E-3
*  SETS IS ^
****OUTPUT VOLTAGE LIMITING****
V2 99 11 .78
D1 12 11 DX
D2 10 12 DX
V3 10 50 .78
EH 99 98 99 50 0.5
****GAIN, 1ST POLE*************
G3 98 12 5 6 7e-3
R4 12 98 450Meg
*C3 98 12 1.11E-10 
C3 98 12 200p
*******************OUTPUT STAGE****************
F6 99 50 VA7 1
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
****************
G12 98 32 12 98 1E-6
*         ^ NODE WHERE OUTPUT STAGE TAKES CONTROL VOLT.
R15 98 32 1E6
D3 32 36 Dx
D4 37 32 Dx
V5 97 37 .5V
V4 36 97 .5V
R16 34 97 47
*R16 OPEN-LOOP OUTPUT IMP.
E1 99 33 99 32 1
VA8 33 34 0V
*
***** MODELS USED ******
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=125000)
.ENDS MAX4473
